US04103009
2,4-diamino-6-(3-sulfamylphenyl)-s-triazine
6.0 g of benzoguanamine is heated in 30 g of chlorosulfonic acid at 130° to 140° C. for 4 hours. After cooling, the mixture is added dropwise into 300 ml of 28% aqueous ammonia with stirring and after 1 hour, the insoluble matter is filtered out and recrystallized from aqueous dimethylsulfoxide. Melting point: over 290° C.; yield: 2.0 g.

reactant | benzoguanamine | 6.0 g | C=1C=CC(=CC1)C=2N=C(N=C(N2)N)N | C9H9N5
reactant | ammonia | 300 ml | N | H3N
reactant | chlorosulfonic acid | 30 g | ClS(=O)(=O)O | ClHO3S
product | 2,4-diamino-6-(3-sulfamylphenyl)-s-triazine | NC1=NC(=NC(=N1)N)C1=CC(=CC=C1)S(N)(=O)=O | C9H10N6O2S
